US07094801B2
Ex-28A: To a solution of 1-(1H-indol-5-yl)-ethanone (Yang, Y. et al, Heterocycles, 1992, 34(6), 1169–1175; 0.45 g, 2.8 mmol) were added iodomethane (3 mL) and cesium carbonate (2.3 g, 7.1 mmol). The reaction mixture was allowed to stir at 55° C. for 1.5 day during which additional iodomethane (11 mL) was added. The reaction was quenched with water. The aqueous solution was extracted with ether. The solution of ether was washed with saturated solution sodium bicarbonate, brine, dried over sodium sulfate and concentrated. The crude product was purified by flash chromatography. Elution with ethyl acetate (33%, v/v, in hexane) gave 1-(1-methyl-1H-indol-5-yl)-ethanone (0.25 g, 51%). 1H NMR (CDCl3) δ 8.30 (s, 1H), 7.91 (dd, J=1.2, 8.1 Hz, 1H), 7.34 (d, J=8.6 Hz, 1H), 7.12 (d, J=3.2 Hz, 1H), 6.61 (d, J=3.0, 1H), 3.82 (s, 3H), 2.66 (s, 3H).

reactant | 1-(1H-indol-5-yl)-ethanone | 2.8 mmol, 0.45 g | N1C=CC2=CC(=CC=C12)C(C)=O | C10H9NO
reactant | iodomethane | 3 mL | IC | CH3I
reactant | cesium carbonate | 7.1 mmol, 2.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 11 mL | IC | CH3I
product | 1-(1-methyl-1H-indol-5-yl)-ethanone | 0.25 g, 51% | CN1C=CC2=CC(=CC=C12)C(C)=O | C11H11NO
